* A44 actual analog core with fixed TT timed behavioral SAR control.
* T2_EVENT_NOISE A44_REPRO_PREFIX5 job=PVT3_SS_3P0_125C_CMP_XM5_XM6_W8P2524_XM7_XM11_W16P8587_S036_LOW_W4 noise_seed=100036 sample_sigma_v=6.4681023031999999e-05 comparator_sigma_v=0.0015 solver_profile=ROBUST_GEAR
.options method=gear reltol=3e-4 abstol=3e-13 vntol=3e-7 trtol=10 chgtol=1e-14 rshunt=1e10 gmin=1e-12 itl1=500 itl4=1000
.include /foss/designs/A44_SAR_ADC_CURRENT_CACE_REPRODUCIBLE_20260728_R1/PDK/gf180mcuD/libs.tech/ngspice/design.ngspice
.option seed=36
.param sw_stat_global=0 sw_stat_mismatch=1 mc_skew=3 res_mc_skew=3 cap_mc_skew=3 fnoicor=0
* PVT3 contract: deterministic process corner plus local MOS mismatch.
* Do not replace this with the statistical section: that would collapse
* TT/SS/FF MOS process binding to the statistical nominal model.
.lib /foss/designs/A44_SAR_ADC_CURRENT_CACE_REPRODUCIBLE_20260728_R1/PDK/gf180mcuD/libs.tech/ngspice/sm141064.ngspice ss
.lib /foss/designs/A44_SAR_ADC_CURRENT_CACE_REPRODUCIBLE_20260728_R1/PDK/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_ss
* Preserve the established MC seed mapping by consuming the 19 global
* agauss draws present in the legacy statistical section before fets_mm.
RLEGACY_RNG_BURN_01 legacy_rng_burn_01 0 r='1+0*agauss(0,1,3)'
RLEGACY_RNG_BURN_02 legacy_rng_burn_02 0 r='1+0*agauss(0,1,3)'
RLEGACY_RNG_BURN_03 legacy_rng_burn_03 0 r='1+0*agauss(0,1,3)'
RLEGACY_RNG_BURN_04 legacy_rng_burn_04 0 r='1+0*agauss(0,1,3)'
RLEGACY_RNG_BURN_05 legacy_rng_burn_05 0 r='1+0*agauss(0,1,3)'
RLEGACY_RNG_BURN_06 legacy_rng_burn_06 0 r='1+0*agauss(0,1,3)'
RLEGACY_RNG_BURN_07 legacy_rng_burn_07 0 r='1+0*agauss(0,1,3)'
RLEGACY_RNG_BURN_08 legacy_rng_burn_08 0 r='1+0*agauss(0,1,3)'
RLEGACY_RNG_BURN_09 legacy_rng_burn_09 0 r='1+0*agauss(0,1,3)'
RLEGACY_RNG_BURN_10 legacy_rng_burn_10 0 r='1+0*agauss(0,1,3)'
RLEGACY_RNG_BURN_11 legacy_rng_burn_11 0 r='1+0*agauss(0,1,3)'
RLEGACY_RNG_BURN_12 legacy_rng_burn_12 0 r='1+0*agauss(0,1,3)'
RLEGACY_RNG_BURN_13 legacy_rng_burn_13 0 r='1+0*agauss(0,1,3)'
RLEGACY_RNG_BURN_14 legacy_rng_burn_14 0 r='1+0*agauss(0,1,3)'
RLEGACY_RNG_BURN_15 legacy_rng_burn_15 0 r='1+0*agauss(0,1,3)'
RLEGACY_RNG_BURN_16 legacy_rng_burn_16 0 r='1+0*agauss(0,1,3)'
RLEGACY_RNG_BURN_17 legacy_rng_burn_17 0 r='1+0*agauss(0,1,3)'
RLEGACY_RNG_BURN_18 legacy_rng_burn_18 0 r='1+0*agauss(0,1,3)'
RLEGACY_RNG_BURN_19 legacy_rng_burn_19 0 r='1+0*agauss(0,1,3)'
.include /foss/designs/A44_SAR_ADC_CURRENT_CACE_REPRODUCIBLE_20260728_R1/02_PVT3_MC20_LOW_W4/netlists/core/subckts/SWITCH_BOOT_SP_native_extracted.subckt.spice
.include /foss/designs/A44_SAR_ADC_CURRENT_CACE_REPRODUCIBLE_20260728_R1/02_PVT3_MC20_LOW_W4/netlists/core/subckts/Comparator_StrongARM_extracted.subckt.spice
.include /foss/designs/A44_SAR_ADC_CURRENT_CACE_REPRODUCIBLE_20260728_R1/02_PVT3_MC20_LOW_W4/models/no_r6_equivalent_loads.inc
.subckt CDAC_P_S036 VIN CLKS VTOP DCTRL7 DCTRL6 DCTRL5 DCTRL4 DCTRL3 DCTRL2 DCTRL1 VREFP VDD GND VREFN
XM1 VBOT1 DCTRL1 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM2 VBOT1 DCTRL1 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XC1 VTOP VBOT1 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=1.0054834194492428
XM3 VBOT2 DCTRL2 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XM4 VBOT2 DCTRL2 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XC2 VTOP VBOT2 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=1.9904737486521271
XM5 VBOT3 DCTRL3 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=8
XM6 VBOT3 DCTRL3 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=8
XC3 VTOP VBOT3 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=3.9748701855791619
XM7 VBOT4 DCTRL4 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=16
XM8 VBOT4 DCTRL4 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=16
XC4 VTOP VBOT4 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=8.000903030930635
XM9 VBOT5 DCTRL5 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=32
XM10 VBOT5 DCTRL5 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=32
XC5 VTOP VBOT5 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=16.010652605662052
XM11 VBOT6 DCTRL6 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=64
XM12 VBOT6 DCTRL6 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=64
XC6 VTOP VBOT6 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=31.986935279319248
XM13 VBOT7 DCTRL7 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=128
XM14 VBOT7 DCTRL7 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=128
XC7 VTOP VBOT7 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=64.017005263052638
XC8 VTOP GND cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=0.99996080226174955
x1 CLKS VDD GND VTOP VIN SWITCH_BOOT_SP
.ends CDAC_P_S036
.subckt CDAC_N_S036 VIN CLKS VTOP DCTRL7 DCTRL6 DCTRL5 DCTRL4 DCTRL3 DCTRL2 DCTRL1 VREFP VDD GND VREFN
XM1 VBOT1 DCTRL1 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM2 VBOT1 DCTRL1 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XC1 VTOP VBOT1 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=1.0032947556880751
XM3 VBOT2 DCTRL2 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XM4 VBOT2 DCTRL2 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XC2 VTOP VBOT2 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=2.0080412499880076
XM5 VBOT3 DCTRL3 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=8
XM6 VBOT3 DCTRL3 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=8
XC3 VTOP VBOT3 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=3.9911913048377201
XM7 VBOT4 DCTRL4 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=16
XM8 VBOT4 DCTRL4 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=16
XC4 VTOP VBOT4 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=8.0137184310597327
XM9 VBOT5 DCTRL5 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=32
XM10 VBOT5 DCTRL5 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=32
XC5 VTOP VBOT5 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=16.001744767812955
XM11 VBOT6 DCTRL6 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=64
XM12 VBOT6 DCTRL6 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=64
XC6 VTOP VBOT6 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=32.016435196703711
XM13 VBOT7 DCTRL7 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=128
XM14 VBOT7 DCTRL7 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=128
XC7 VTOP VBOT7 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=64.015222396689154
XC8 VTOP GND cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=1.0092712965871946
x1 CLKS VDD GND VTOP VIN SWITCH_BOOT_SP
.ends CDAC_N_S036

.subckt SAR_ADC_ACTIVE VDD GND VREFP VREFN VINP VINN CLKS CMPCK
+ DCTRLP7 DCTRLP6 DCTRLP5 DCTRLP4 DCTRLP3 DCTRLP2 DCTRLP1
+ DCTRLN7 DCTRLN6 DCTRLN5 DCTRLN4 DCTRLN3 DCTRLN2 DCTRLN1
+ DCMPP DCMPN VRESP VRESN CMPNOISE
XCDACP VINP CLKS VRESP_RAW DCTRLP7 DCTRLP6 DCTRLP5 DCTRLP4 DCTRLP3 DCTRLP2 DCTRLP1 VREFP VDD GND VREFN CDAC_P_S036
XCDACN VINN CLKS VRESN_RAW DCTRLN7 DCTRLN6 DCTRLN5 DCTRLN4 DCTRLN3 DCTRLN2 DCTRLN1 VREFP VDD GND VREFN CDAC_N_S036
E_CMP_NOISE_P VRESP VRESP_RAW CMPNOISE GND 0.5
E_CMP_NOISE_N VRESN VRESN_RAW CMPNOISE GND -0.5
XCMP CMPCK DCMPP VRESP DCMPN VRESN VDD GND Comparator_StrongARM
.ends SAR_ADC_ACTIVE

.temp 125
VVDD vdd 0 3
VVREFP_ID vrefp_src 0 2.5
RVREFP vrefp_src vrefp {REF_R_EQ}
RVREFP_ESR vrefp vrefp_cap {REF_ESR_EQ}
CVREFP_LOCAL vrefp_cap 0 {REF_CLOCAL_EQ}
CVREFP_LINE vrefp 0 {REF_CLINE_EQ}
VVREFN_ID vrefn_src 0 0.8
RVREFN vrefn_src vrefn {REF_R_EQ}
RVREFN_ESR vrefn vrefn_cap {REF_ESR_EQ}
CVREFN_LOCAL vrefn_cap 0 {REF_CLOCAL_EQ}
CVREFN_LINE vrefn 0 {REF_CLINE_EQ}

VVINP_ID vinp_src 0 PWL(
+ 0 2.29143858283 4.99999e-07 2.29143858283 5e-07 2.39249479137 9.99999e-07 2.39249479137
+ 1e-06 2.15642125411 1.499999e-06 2.15642125411 1.5e-06 1.69047014023 1.999999e-06 1.69047014023
+ 2e-06 1.20625260693
+ )
VVINN_ID vinn_src 0 PWL(
+ 0 1.00856141717 4.99999e-07 1.00856141717 5e-07 0.90750520863 9.99999e-07 0.90750520863
+ 1e-06 1.14357874589 1.499999e-06 1.14357874589 1.5e-06 1.60952985977 1.999999e-06 1.60952985977
+ 2e-06 2.09374739307
+ )
RVINP vinp_src vinp {VIN_R_EQ}
CVINP vinp 0 {VIN_CP_EQ+VIN_CCM_EQ}
RVINN vinn_src vinn {VIN_R_EQ}
CVINN vinn 0 {VIN_CN_EQ+VIN_CCM_EQ}
CVIN_DIFF vinp vinn {VIN_CDM_EQ}

VCLKS_ID clks_src 0 PULSE(0 3 5e-08 {CLK_TR_EQ} {CLK_TF_EQ} 125n 5e-07)
RCLKS clks_src clks {CLK_R_EQ}
CCLKS clks 0 {CLK_C_EQ}

VCMP_NOISE cmp_noise 0 PWL(
+ 0 -0.0022206439760455048 1.92864e-07 -0.0022206439760455048 1.92964e-07 -0.0010709636168263015 2.18224e-07 -0.0010709636168263015
+ 2.18324e-07 0.0024531068717974602 2.43767e-07 0.0024531068717974602 2.43867e-07 -0.0025575891280297082 2.69234e-07 -0.0025575891280297082
+ 2.69334e-07 -0.00033739334217398377 2.94596e-07 -0.00033739334217398377 2.94696e-07 -0.0033831499159746843 3.20034e-07 -0.0033831499159746843
+ 3.20134e-07 -0.0032543087870387359 3.45579e-07 -0.0032543087870387359 3.45679e-07 0.00035728554938585971 5.099e-07 0.00035728554938585971
+ 5.1e-07 -0.00058708105189521332 6.92864e-07 -0.00058708105189521332 6.92964e-07 0.00086426063270629214 7.18224e-07 0.00086426063270629214
+ 7.18324e-07 -0.00022841220393712028 7.43767e-07 -0.00022841220393712028 7.43867e-07 -0.0024728899499999991 7.69234e-07 -0.0024728899499999991
+ 7.69334e-07 0.0011886366344933824 7.94596e-07 0.0011886366344933824 7.94696e-07 0.002129634035437099 8.20034e-07 0.002129634035437099
+ 8.20134e-07 1.9211256157683531e-05 8.45579e-07 1.9211256157683531e-05 8.45679e-07 -0.0033200896359926891 1.0099e-06 -0.0033200896359926891
+ 1.01e-06 0.00058592090338506898 1.192864e-06 0.00058592090338506898 1.192964e-06 0.0002033311352928553 1.218224e-06 0.0002033311352928553
+ 1.218324e-06 0.00067352349721760952 1.243767e-06 0.00067352349721760952 1.243867e-06 -0.0024581128357224649 1.269234e-06 -0.0024581128357224649
+ 1.269334e-06 0.0005984914029471092 1.294596e-06 0.0005984914029471092 1.294696e-06 7.7226778822720232e-05 1.320034e-06 7.7226778822720232e-05
+ 1.320134e-06 -0.00045565398757891045 1.345579e-06 -0.00045565398757891045 1.345679e-06 -0.0011252457788491809 1.5099e-06 -0.0011252457788491809
+ 1.51e-06 0.001961130717299264 1.692864e-06 0.001961130717299264 1.692964e-06 -0.00010898738077900015 1.718224e-06 -0.00010898738077900015
+ 1.718324e-06 0.00067476041025337559 1.743767e-06 0.00067476041025337559 1.743867e-06 -5.7228240198116668e-05 1.769234e-06 -5.7228240198116668e-05
+ 1.769334e-06 0.00060628384509234798 1.794596e-06 0.00060628384509234798 1.794696e-06 -0.00037825546342323786 1.820034e-06 -0.00037825546342323786
+ 1.820134e-06 0.0018661734237663222 1.845579e-06 0.0018661734237663222 1.845679e-06 -0.00031194739265580102 2.0099e-06 -0.00031194739265580102
+ 2.01e-06 -5.9808075367811053e-05 2.192864e-06 -5.9808075367811053e-05 2.192964e-06 -0.00015884222985502349 2.218224e-06 -0.00015884222985502349
+ 2.218324e-06 0.0028389204723790851 2.243767e-06 0.0028389204723790851 2.243867e-06 0.00055629778344569209 2.269234e-06 0.00055629778344569209
+ 2.269334e-06 0.0031989246821285044 2.294596e-06 0.0031989246821285044 2.294696e-06 -0.0012537072946798319 2.320034e-06 -0.0012537072946798319
+ 2.320134e-06 -0.0024337221574258503 2.345579e-06 -0.0024337221574258503 2.345679e-06 -0.0042861993883946395 2.5e-06 -0.0042861993883946395
+ )

XCORE vdd 0 vrefp vrefn vinp vinn clks cmpck
+ dctrlp7 dctrlp6 dctrlp5 dctrlp4 dctrlp3 dctrlp2 dctrlp1
+ dctrln7 dctrln6 dctrln5 dctrln4 dctrln3 dctrln2 dctrln1
+ dcmpp dcmpn vresp vresn cmp_noise SAR_ADC_ACTIVE
E_SAMPLE_DIFF sampled_diff 0 vresp vresn 1
E_INPUT_DIFF input_diff 0 vinp vinn 1

CLOGIC_P dcmpp 0 {CLOGIC_IN_P}
CLOGIC_N dcmpn 0 {CLOGIC_IN_N}
A_CLKS [clks] [clks_d] adc_logic_in
A_DCMPP [dcmpp] [dcmpp_d] adc_logic_in
A_DCMPN [dcmpn] [dcmpn_d] adc_logic_in
ABEH [clks_d dcmpp_d dcmpn_d]
+ [cmpck_d
+ dctrlp7_d dctrlp6_d dctrlp5_d dctrlp4_d dctrlp3_d dctrlp2_d dctrlp1_d
+ dctrln7_d dctrln6_d dctrln5_d dctrln4_d dctrln3_d dctrln2_d dctrln1_d
+ dout7_d dout6_d dout5_d dout4_d dout3_d dout2_d dout1_d dout0_d
+ eoc_d
+ invalid7_d invalid6_d invalid5_d invalid4_d invalid3_d invalid2_d invalid1_d invalid0_d
+ timeout7_d timeout6_d timeout5_d timeout4_d timeout3_d timeout2_d timeout1_d timeout0_d
+ complete_d] sar_logic_beh

A_CMPCK [cmpck_d] [cmpck_drv] dac_cmpck
A_DCTRLP [dctrlp7_d dctrlp6_d dctrlp5_d dctrlp4_d dctrlp3_d dctrlp2_d dctrlp1_d]
+ [dctrlp7_drv dctrlp6_drv dctrlp5_drv dctrlp4_drv dctrlp3_drv dctrlp2_drv dctrlp1_drv] dac_dctrl
A_DCTRLN [dctrln7_d dctrln6_d dctrln5_d dctrln4_d dctrln3_d dctrln2_d dctrln1_d]
+ [dctrln7_drv dctrln6_drv dctrln5_drv dctrln4_drv dctrln3_drv dctrln2_drv dctrln1_drv] dac_dctrl
A_DOUT [dout7_d dout6_d dout5_d dout4_d dout3_d dout2_d dout1_d dout0_d]
+ [dout7_drv dout6_drv dout5_drv dout4_drv dout3_drv dout2_drv dout1_drv dout0_drv] dac_dout
A_STATUS [eoc_d invalid0_d timeout0_d complete_d] [eoc invalid0 timeout0 complete] dac_status

R_CMPCK cmpck_drv cmpck {CMPCK_R_EQ}
R_DCTRLP7 dctrlp7_drv dctrlp7 {DCTRL_R_EQ}
R_DCTRLP6 dctrlp6_drv dctrlp6 {DCTRL_R_EQ}
R_DCTRLP5 dctrlp5_drv dctrlp5 {DCTRL_R_EQ}
R_DCTRLP4 dctrlp4_drv dctrlp4 {DCTRL_R_EQ}
R_DCTRLP3 dctrlp3_drv dctrlp3 {DCTRL_R_EQ}
R_DCTRLP2 dctrlp2_drv dctrlp2 {DCTRL_R_EQ}
R_DCTRLP1 dctrlp1_drv dctrlp1 {DCTRL_R_EQ}
R_DCTRLN7 dctrln7_drv dctrln7 {DCTRL_R_EQ}
R_DCTRLN6 dctrln6_drv dctrln6 {DCTRL_R_EQ}
R_DCTRLN5 dctrln5_drv dctrln5 {DCTRL_R_EQ}
R_DCTRLN4 dctrln4_drv dctrln4 {DCTRL_R_EQ}
R_DCTRLN3 dctrln3_drv dctrln3 {DCTRL_R_EQ}
R_DCTRLN2 dctrln2_drv dctrln2 {DCTRL_R_EQ}
R_DCTRLN1 dctrln1_drv dctrln1 {DCTRL_R_EQ}

R_DOUT7 dout7_drv dout7_rx {DOUT_R_EQ}
R_DOUT6 dout6_drv dout6_rx {DOUT_R_EQ}
R_DOUT5 dout5_drv dout5_rx {DOUT_R_EQ}
R_DOUT4 dout4_drv dout4_rx {DOUT_R_EQ}
R_DOUT3 dout3_drv dout3_rx {DOUT_R_EQ}
R_DOUT2 dout2_drv dout2_rx {DOUT_R_EQ}
R_DOUT1 dout1_drv dout1_rx {DOUT_R_EQ}
R_DOUT0 dout0_drv dout0_rx {DOUT_R_EQ}
C_DOUT7 dout7_rx 0 {DOUT_C_EQ}
C_DOUT6 dout6_rx 0 {DOUT_C_EQ}
C_DOUT5 dout5_rx 0 {DOUT_C_EQ}
C_DOUT4 dout4_rx 0 {DOUT_C_EQ}
C_DOUT3 dout3_rx 0 {DOUT_C_EQ}
C_DOUT2 dout2_rx 0 {DOUT_C_EQ}
C_DOUT1 dout1_rx 0 {DOUT_C_EQ}
C_DOUT0 dout0_rx 0 {DOUT_C_EQ}

.model adc_logic_in adc_bridge in_low=0.9 in_high=2.1 rise_delay=1p fall_delay=1p
.model dac_cmpck dac_bridge input_load=10f t_rise={CMPCK_TR_EQ} t_fall={CMPCK_TF_EQ} out_low=0 out_high=3
.model dac_dctrl dac_bridge input_load=10f t_rise={DCTRL_TR_EQ} t_fall={DCTRL_TF_EQ} out_low=0 out_high=3
.model dac_dout dac_bridge input_load=10f t_rise={DOUT_TR_EQ} t_fall={DOUT_TF_EQ} out_low=0 out_high=3
.model dac_status dac_bridge input_load=1f t_rise=0.05n t_fall=0.05n out_low=0 out_high=3
.model sar_logic_beh d_cosim simulation="/foss/designs/A44_SAR_ADC_CURRENT_CACE_REPRODUCIBLE_20260728_R1/02_PVT3_MC20_LOW_W4/models/SAR_LOGIC_BEH_TT_3P3_27C.so" delay=1p

.save v(cmpck) v(vresp) v(vresn) v(vinp) v(vinn) v(sampled_diff) v(input_diff)
+ v(dout7_rx) v(dout6_rx) v(dout5_rx) v(dout4_rx) v(dout3_rx) v(dout2_rx) v(dout1_rx) v(dout0_rx)
+ v(complete) v(invalid0) v(timeout0)
.control
set noaskquit
set plotwinsize=0
tran 5e-10 2.495e-06 0 5e-11
meas tran f000_d7 find v(dout7_rx) at=4.8e-07
meas tran f000_d6 find v(dout6_rx) at=4.8e-07
meas tran f000_d5 find v(dout5_rx) at=4.8e-07
meas tran f000_d4 find v(dout4_rx) at=4.8e-07
meas tran f000_d3 find v(dout3_rx) at=4.8e-07
meas tran f000_d2 find v(dout2_rx) at=4.8e-07
meas tran f000_d1 find v(dout1_rx) at=4.8e-07
meas tran f000_d0 find v(dout0_rx) at=4.8e-07
meas tran f000_complete find v(complete) at=4.8e-07
meas tran f000_invalid find v(invalid0) at=4.8e-07
meas tran f000_timeout find v(timeout0) at=4.8e-07
meas tran f000_sampled find v(sampled_diff) at=1.7e-07
meas tran f000_input find v(input_diff) at=1.7e-07
meas tran f000_tcomplete when v(complete)=1.65 rise=1
meas tran f001_d7 find v(dout7_rx) at=9.8e-07
meas tran f001_d6 find v(dout6_rx) at=9.8e-07
meas tran f001_d5 find v(dout5_rx) at=9.8e-07
meas tran f001_d4 find v(dout4_rx) at=9.8e-07
meas tran f001_d3 find v(dout3_rx) at=9.8e-07
meas tran f001_d2 find v(dout2_rx) at=9.8e-07
meas tran f001_d1 find v(dout1_rx) at=9.8e-07
meas tran f001_d0 find v(dout0_rx) at=9.8e-07
meas tran f001_complete find v(complete) at=9.8e-07
meas tran f001_invalid find v(invalid0) at=9.8e-07
meas tran f001_timeout find v(timeout0) at=9.8e-07
meas tran f001_sampled find v(sampled_diff) at=6.7e-07
meas tran f001_input find v(input_diff) at=6.7e-07
meas tran f001_tcomplete when v(complete)=1.65 rise=2
meas tran f002_d7 find v(dout7_rx) at=1.48e-06
meas tran f002_d6 find v(dout6_rx) at=1.48e-06
meas tran f002_d5 find v(dout5_rx) at=1.48e-06
meas tran f002_d4 find v(dout4_rx) at=1.48e-06
meas tran f002_d3 find v(dout3_rx) at=1.48e-06
meas tran f002_d2 find v(dout2_rx) at=1.48e-06
meas tran f002_d1 find v(dout1_rx) at=1.48e-06
meas tran f002_d0 find v(dout0_rx) at=1.48e-06
meas tran f002_complete find v(complete) at=1.48e-06
meas tran f002_invalid find v(invalid0) at=1.48e-06
meas tran f002_timeout find v(timeout0) at=1.48e-06
meas tran f002_sampled find v(sampled_diff) at=1.17e-06
meas tran f002_input find v(input_diff) at=1.17e-06
meas tran f002_tcomplete when v(complete)=1.65 rise=3
meas tran f003_d7 find v(dout7_rx) at=1.98e-06
meas tran f003_d6 find v(dout6_rx) at=1.98e-06
meas tran f003_d5 find v(dout5_rx) at=1.98e-06
meas tran f003_d4 find v(dout4_rx) at=1.98e-06
meas tran f003_d3 find v(dout3_rx) at=1.98e-06
meas tran f003_d2 find v(dout2_rx) at=1.98e-06
meas tran f003_d1 find v(dout1_rx) at=1.98e-06
meas tran f003_d0 find v(dout0_rx) at=1.98e-06
meas tran f003_complete find v(complete) at=1.98e-06
meas tran f003_invalid find v(invalid0) at=1.98e-06
meas tran f003_timeout find v(timeout0) at=1.98e-06
meas tran f003_sampled find v(sampled_diff) at=1.67e-06
meas tran f003_input find v(input_diff) at=1.67e-06
meas tran f003_tcomplete when v(complete)=1.65 rise=4
meas tran f004_d7 find v(dout7_rx) at=2.48e-06
meas tran f004_d6 find v(dout6_rx) at=2.48e-06
meas tran f004_d5 find v(dout5_rx) at=2.48e-06
meas tran f004_d4 find v(dout4_rx) at=2.48e-06
meas tran f004_d3 find v(dout3_rx) at=2.48e-06
meas tran f004_d2 find v(dout2_rx) at=2.48e-06
meas tran f004_d1 find v(dout1_rx) at=2.48e-06
meas tran f004_d0 find v(dout0_rx) at=2.48e-06
meas tran f004_complete find v(complete) at=2.48e-06
meas tran f004_invalid find v(invalid0) at=2.48e-06
meas tran f004_timeout find v(timeout0) at=2.48e-06
meas tran f004_sampled find v(sampled_diff) at=2.17e-06
meas tran f004_input find v(input_diff) at=2.17e-06
meas tran f004_tcomplete when v(complete)=1.65 rise=5
quit
.endc
.end
